US07314872B2
2-(S)-(4-Fluoro-phenyl)-N-{1-(S)-[(6-methoxy-pyridin-3-ylamino)-methyl]-2-methyl-propyl}-4-morpholin-4-yl-4-oxo-butyramide
2-(S)-(4-Fluoro-phenyl)-N-(1-(S)-formyl-2-methyl-propyl)-4-morpholin-4-yl-4-oxo-butyramide (350 mg, 0.96 mmol, 1.0 eq.) and 5-Amino-2-methoxy-pyridine (240 μL, 1.92 mmol, 2.0 eq.) dissolved in MeOH (2.5 mL) and acetic acid (106 mL, 1.92 mmol, 2.0 eq.) added via syringe at room temperature. Sodium cyanoborohydride (121 mg, 1.92 mmol, 2.0 eq.) added in portion and the reaction monitored the reaction by LC/MS. Upon completion, solvents were evaporated and dissolved in EtOAc (100 mL) washed with brine, dried over MgSO4, filtered and evaporated. Purification by preparative mass-directed HPLC provided the title compound as a white solid after evaporation and lyophilizationn(2.6 mg, 5.6 □mol, 0.6%). HPLC-MS calcd. for C25H33FN4O4 (M+H+) 473.3. found 473.5.

reactant | 2-(S)-(4-Fluoro-phenyl)-N-(1-(S)-formyl-2-methyl-propyl)-4-morpholin-4-yl-4-oxo-butyramide | 0.96 mmol, 350 mg, 1.0 eq. | FC1=CC=C(C=C1)[C@@H](C(=O)N[C@@H](C(C)C)C=O)CC(=O)N1CCOCC1 | C19H25FN2O4
reactant | 5-Amino-2-methoxy-pyridine | 1.92 mmol, 240 μL, 2.0 eq. | NC=1C=CC(=NC1)OC | C6H8N2O
reactant | acetic acid | 1.92 mmol, 106 mL, 2.0 eq. | C(C)(=O)O | C2H4O2
reactant | Sodium cyanoborohydride | 1.92 mmol, 121 mg, 2.0 eq. | C(#N)[BH3-].[Na+]
solvent | MeOH | 2.5 mL | CO | CH4O
product | 2-(S)-(4-Fluoro-phenyl)-N-{1-(S)-[(6-methoxy-pyridin-3-ylamino)-methyl]-2-methyl-propyl}-4-morpholin-4-yl-4-oxo-butyramide | FC1=CC=C(C=C1)[C@@H](C(=O)N[C@@H](C(C)C)CNC=1C=NC(=CC1)OC)CC(=O)N1CCOCC1 | C25H33FN4O4
